US05463071
4-(3-Guanidino-phenyl)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazole-hydrochloride
Prepared from 4-(3-amino-phenyl)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazole-hydrochloride by refluxing for three hours with cyanamide in dioxane.

reactant | 4-(3-amino-phenyl)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazole-hydrochloride | Cl.NC=1C=C(C=CC1)C=1N=C(NC1)C1=CC=C(C=C1)CCC(=O)OC
reactant | cyanamide | N#CN | CH2N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(3-Guanidino-phenyl)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazole-hydrochloride | Cl.N(C(=N)N)C=1C=C(C=CC1)C=1N=C(NC1)C1=CC=C(C=C1)CCC(=O)OC | InChI=1S/C20H21N5O2.ClH/c1-27-18(26)10-7-13-5-8-14(9-6-13)19-23-12-17(25-19)15-3-2-4-16(11-15)24-20(21)22;/h2-6,8-9,11-12H,7,10H2,1H3,(H,23,25)(H4,21,22,24);1H
